US04925879
A solution of sodium cyanide (19.5 g) in water (50 ml) was added dropwise over a period of 30 minutes to a solution of 1-(3,4-dichlorophenyl)cyclobutanecarbaldehyde [(62.16 g) prepared in a similar manner to that described in Example A for 1-(4-chlorophenyl)cyclobutanecarbaldehyde] in methanol (70 ml) whilst the temperature was maintained at 20° C. by cooling. A saturated aqueous solution of sodium metabisulphite (81 ml) was added over a period of 20 minutes at 20° C. and the mixture was stirred for 16 hours and then poured into a mixture of ice and water. The resulting mixture was extracted with ether and the extracts were washed and dried. Evaporation of the solvent gave 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-hydroxyacetonitrile as a yellow oil which was used without further purification.

reactant | sodium cyanide | 19.5 g | [C-]#N.[Na+]
reactant | 1-(3,4-dichlorophenyl)cyclobutanecarbaldehyde | ClC=1C=C(C=CC1Cl)C1(CCC1)C=O | C11H10Cl2O
reactant | 1-(4-chlorophenyl)cyclobutanecarbaldehyde | ClC1=CC=C(C=C1)C1(CCC1)C=O | C11H11ClO
reactant | sodium metabisulphite | 81 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 50 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 2-[1-(3,4-dichlorophenyl)cyclobutyl]-2-hydroxyacetonitrile | ClC=1C=C(C=CC1Cl)C1(CCC1)C(C#N)O | C12H11Cl2NO
